US05576322
(E)-2-(2-Carboxy-1-propenyl)-4-(3,4-methylenedioxybenzyl)amino-6-chloroquinazoline
1.00 g (0.0023 mol) of (E)-2-(2-ethoxycarbonylpropenyl)-4-(3,4-methylenedioxybenzyl)amino-6-chloroquinazoline was dissolved in a mixture comprising 5 ml of tetrahydrofuran and 20 ml of ethanol, followed by the addition of 20 ml of a 1N aqueous solution of sodium hydroxide. The obtained mixture was stirred at room temperature for several hours, neutralized with 20 ml of 1N hydrochloric acid and concentrated under a reduced pressure. The crystal thus formed was recovered by filtration, washed with water and air-dried to give 0.85 g of the title compound.

reactant | (E)-2-(2-ethoxycarbonylpropenyl)-4-(3,4-methylenedioxybenzyl)amino-6-chloroquinazoline | 0.0023 mol, 1.00 g | C(C)OC(=O)/C(=C/C1=NC2=CC=C(C=C2C(=N1)NCC1=CC2=C(C=C1)OCO2)Cl)/C | C22H20ClN3O4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 20 ml | Cl | ClH
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | (E)-2-(2-Carboxy-1-propenyl)-4-(3,4-methylenedioxybenzyl)amino-6-chloroquinazoline | 0.85 g, yield(%); 91 | C(=O)(O)/C(=C/C1=NC2=CC=C(C=C2C(=N1)NCC1=CC2=C(C=C1)OCO2)Cl)/C | C20H16ClN3O4
